US07423175B2
Next, to a solution of [2-(4-fluorophenoxy)ethyl]carbamic acid tert-butyl ester (7.0 g, 27.4 mmol) in dioxane (20 mL) cooled in an ice bath was added 4N—HCl in dioxane (100 mL) dropwise. The mixture was stirred at 0° C. for 2 hours, and at room temperature for 16 hours. The precipitates were filtered, washed with diethylether, and dried under reduced pressure to yield 2-(4-fluorophenoxy)ethylamine HCl salt (4.24 g, 80.7% yield).

reactant | [2-(4-fluorophenoxy)ethyl]carbamic acid tert-butyl ester | 27.4 mmol, 7.0 g | C(C)(C)(C)OC(NCCOC1=CC=C(C=C1)F)=O | C13H18FNO3
reactant | HCl | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 2-(4-fluorophenoxy)ethylamine HCl salt | 4.24 g, 80.7% yield | Cl.FC1=CC=C(OCCN)C=C1 | InChI=1S/C8H10FNO.ClH/c9-7-1-3-8(4-2-7)11-6-5-10;/h1-4H,5-6,10H2;1H
